US08541457B2
Synthesis of 2-Benzamido-N-benzyl-4-((diethylamino)methyl)thiazole-5-carboxamide
To a solution of 2-amino-4-diethylaminomethylthiazole-5-carboxylic acid benzylamide (0.052 g, 0.16 mmol) in tetrahydrofuran (5 mL) at 0° C. were added benzoyl chloride (0.04 mL, 0.34 mmol), 4-dimethylaminopyridine (catalytical amount) and triethylamine (0.3 mL, 2.10 mmol). The reaction mixture was allowed to warm to ambient temperature over 18 h then concentrated in vacuo. The crude product was purified by flash column chromatography eluting with methanol/dichloromethane (1/40 to 20/80) to afford the title compound (0.021 g); MS (ES+) m/z 423 (M+1).

reactant | 2-amino-4-diethylaminomethylthiazole-5-carboxylic acid benzylamide | 0.16 mmol, 0.052 g | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)N)CN(CC)CC | C16H22N4OS
reactant | benzoyl chloride | 0.34 mmol, 0.04 mL | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | triethylamine | 2.10 mmol, 0.3 mL | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
catalyst | 4-dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
product | 2-Benzamido-N-benzyl-4-((diethylamino)methyl)thiazole-5-carboxamide | 0.021 g | C(C1=CC=CC=C1)(=O)NC=1SC(=C(N1)CN(CC)CC)C(=O)NCC1=CC=CC=C1 | C23H26N4O2S
